US04970077
The direct aldol condensation also takes place by reacting the benzaldehyde derivative with the anion of an N-substituted ethylideneamine, for example ethylidenecyclohexylamine. The reaction, which is preferably carried out in the cold in an aprotic solvent, for example tetrahydrofuran, provides a β-hydroxy-β-phenylpropylideneamine which, with simultaneous dehydration and imine hydrolysis in an acidic medium, for example in dilute hydrochloric acid, gives the corresponding cinnamaldehyde (G. Wittig and A. Hesse, Org. Synth., 50, 67).

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | ethylidenecyclohexylamine | C(C)=NC1CCCCC1 | C8H15N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | β-hydroxy-β-phenylpropylideneamine | OC(C=N)(C)C1=CC=CC=C1 | C9H11NO
